US06958347B2
Oxalyl chloride (2.3 ml, 3.4 g, 26.6 mmol) was added dropwise to a solution of 2-iodo-4-Chlorobenzoic acid (5 g, 17.7 mmol) in dichloromethane (35 ml). N,N-Dimethylformamide (0.01 ml) was added to the reaction mixture via syringe and the reaction mixture was stirred at 23° C. for an hour. The reaction mixture was concentrated in vacuo. The residue was taken up in dichloromethane (50 ml) followed by the addition of DMAP (10 mg) and triethylamine (3.73 ml, 2.7 g, 26.6 mmol). The mixture was cooled to 0° C. and N-ethylaniline (2.6 ml, 2.6 g, 21.2 mmol) was added. The reaction mixture was warmed to 23° C. After an hour at this temperature, the reaction mixture was diluted with 1:1 ethyl acetate/hexanes (150 ml) and washed with 1N HCl (2 50-ml portions) and saturated aqueous sodium chloride (50 ml). The organics were dried over anhydrous sodium sulfate and concentrated. Purification of the residue by flash column chromatography (25% ethyl acetate in hexanes) afforded 4-chloro-N-ethyl-2-iodo-N-phenyl-benzamide I-14a (6.0 g, 88%).

reactant | Oxalyl chloride | 26.6 mmol, 2.3 ml, 3.4 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-iodo-4-Chlorobenzoic acid | 17.7 mmol, 5 g | IC1=C(C(=O)O)C=CC(=C1)Cl | C7H4ClIO2
reactant | triethylamine | 26.6 mmol, 3.73 ml, 2.7 g | C(C)N(CC)CC | C6H15N
reactant | N-ethylaniline | 21.2 mmol, 2.6 ml, 2.6 g | C(C)NC1=CC=CC=C1 | C8H11N
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | N,N-Dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
product | 4-chloro-N-ethyl-2-iodo-N-phenyl-benzamide | ClC1=CC(=C(C(=O)N(C2=CC=CC=C2)CC)C=C1)I | C15H13ClINO
